US06566377B2
N-[2-[4-(2-Phenyl-thiazol-4-yl)-phenyl]-ethyl}-acetamide
In a round-bottomed flask, thiobenzamide (357 mg, 2.60 mmol) and N-[2-(4-bromoacetyl-phenyl)-ethyl]-acetamide (740 mg, 2.60 mmol) were combined in ethanol (30 ml) and heated to about 80° C. for about three hours. The reaction mixture was then concentrated in vacuo to yield an off-white solid. The resulting material (838 mg, 100% yield) was ascertained to be pure by NMR and was carried into the next step directly without further purification. LRMS ([M+H]+)=323.2.

reactant | thiobenzamide | 2.60 mmol, 357 mg | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | N-[2-(4-bromoacetyl-phenyl)-ethyl]-acetamide | 2.60 mmol, 740 mg | BrCC(=O)C1=CC=C(C=C1)CCNC(C)=O | C12H14BrNO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-[2-[4-(2-Phenyl-thiazol-4-yl)-phenyl]-ethyl}-acetamide | 838 mg, 100% yield | C1(=CC=CC=C1)C=1SC=C(N1)C1=CC=C(C=C1)CCNC(C)=O | C19H18N2OS
